US09382188B2
G) 2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-ol
A 1.0M solution of tetrabutylammonium fluoride in THF (73.6 mL) was added to a solution of ((2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-yl)oxy)triisopropylsilane (total amount) obtained in Example 2, step F, in THF (30 mL) at room temperature, and the mixture was stirred for 15 min. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (8.68 g) as a pale-yellow amorphous solid.

reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | ((2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-yl)oxy)triisopropylsilane | FC1=C(C=C(C=C1)OC)C1=C(C=C(C=C1)O[Si](C(C)C)(C(C)C)C(C)C)CC(C)(C)C | C27H41FO2Si
reactant | Water | O | H2O
solvent | THF | 73.6 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-ol | 8.68 g | FC1=C(C=C(C=C1)OC)C1=C(C=C(C=C1)O)CC(C)(C)C | C18H21FO2
